US06410556B1
2-(tert-Butyl-dimethyl-silanyloxy)-6-methyl-benzoic acid ethyl ester (7.6 g, 25.8 mmol), N-bromosuccinimide (4.82 g, 27.1 mmol) and azobis(cyclohexanecarbonitrile) (0.32 g, 1.3 mmol) were dissolved in tetrachlormethane (130 ml). The solution was stirred at room temperature for 60 hours. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel column using a gradient of 1-2% ethyl acetate/hexane as eluent, which afforded 8.0 g (83%) of 6-bromomethyl-2-(tert-butyl-dimethyl-silanyloxy)-benzoic acid ethyl ester as an oil.

reactant | 2-(tert-Butyl-dimethyl-silanyloxy)-6-methyl-benzoic acid ethyl ester | 25.8 mmol, 7.6 g | C(C)OC(C1=C(C=CC=C1C)O[Si](C)(C)C(C)(C)C)=O | C16H26O3Si
reactant | N-bromosuccinimide | 27.1 mmol, 4.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachlormethane | 130 ml | ClC(Cl)(Cl)Cl | CCl4
catalyst | azobis(cyclohexanecarbonitrile) | 1.3 mmol, 0.32 g | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 6-bromomethyl-2-(tert-butyl-dimethyl-silanyloxy)-benzoic acid ethyl ester | 8.0 g, 83% | C(C)OC(C1=C(C=CC=C1CBr)O[Si](C)(C)C(C)(C)C)=O | C16H25BrO3Si
